US04585767
Sodium 6-ethyl-3-phenoxy-7-oxo-4-thia-1-azabicyclo[3,2,0]hept-2-ene-2-carboxylate
A mixture of a solution of 306 mg of 4-nitrobenzyl 6-ethyl-3-phenoxy-7-oxo-4-thia-1-azabicyclo[3,2,0]hept-2-ene-2-carboxylate in dioxan and 60 mg of sodium bicarbonate in water, and 10% palladium/charcoal was hydrogenated at 50 psi at 25° for 60 minutes. The mixture was then filtered through Celite, and lyophilised to yield 216 mg of the title compound as a pale yellow crystalline solid (96% of the theoretical yield).

reactant | 4-nitrobenzyl 6-ethyl-3-phenoxy-7-oxo-4-thia-1-azabicyclo[3,2,0]hept-2-ene-2-carboxylate | 306 mg | C(C)C1C2SC(=C(N2C1=O)C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-])OC1=CC=CC=C1 | C21H18N2O6S
reactant | sodium bicarbonate | 60 mg | C([O-])(O)=O.[Na+]
solvent | dioxan | O1CCOCC1 | C4H8O2
solvent | water | O | H2O
catalyst | palladium/charcoal | [Pd] | Pd
product | Sodium 6-ethyl-3-phenoxy-7-oxo-4-thia-1-azabicyclo[3,2,0]hept-2-ene-2-carboxylate | 216 mg | C(C)C1C2SC(=C(N2C1=O)C(=O)[O-])OC1=CC=CC=C1.[Na+] | InChI=1S/C14H13NO4S.Na/c1-2-9-11(16)15-10(13(17)18)14(20-12(9)15)19-8-6-4-3-5-7-8;/h3-7,9,12H,2H2,1H3,(H,17,18);/q;+1/p-1
